US04549019
32 ml (0.20 mol) of 40% peracetic acid are added slowly to a solution of 20.2 g (0.10 mol) of methyl 2-amino-6-chloro-4-pyrimidinecarbamate in 500 ml of chloroform. The suspension obtained is warmed to 50° for 4 hours, whereby a clear solution gradually results. After cooling to room temperature, there is obtained by the slow addition of hexane a crystalline precipitate which is recrystallized from chloroform/methanol. There is obtained methyl 2-amino-6-chloro-4-pyrimidinecarbamate-3-oxide of melting point 220°-221°.

reactant | peracetic acid | 0.20 mol, 32 ml | C(C)(=O)OO | C2H4O3
reactant | methyl 2-amino-6-chloro-4-pyrimidinecarbamate | 0.10 mol, 20.2 g | NC1=NC(=CC(=N1)NC(=O)OC)Cl | C6H7ClN4O2
reactant | hexane | CCCCCC | C6H14
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-amino-6-chloro-4-pyrimidinecarbamate-3-oxide | NC1=NC(=CC(=[N+]1[O-])NC(=O)OC)Cl | C6H7ClN4O3
